US08604029B2
2-Isopropyl-4-nitro-phenylamine (1.0 g, 5.55 mmol) was dissolved in 5N hydrochloric acid (10 mL) and cooled to 0° C. A solution of sodium nitrite (0.96 g, 13.9 mmol) in water (5 mL) was added and the mixture stirred at this temperature for 1 hr. The mixture was filtered and the solids washed with ice-water, the filtrate then being added to a previously-prepared and cooled (0° C.) solution of CuCN (0.82 g, 9.16 mmol) and NaCN (0.68 g, 13.9 mmol) in water. This mixture was warmed to r.t. and stirred for 1 hr, then ethyl acetate was added and the mixture basified with ammonia solution. Precipitated copper salts were filtered off, and the filtrate was extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate and concentrated. The crude product was purified by column chromatography on silica gel (60-120 mesh), eluting with 4% ethyl acetate/petroleum ether to yield 2-isopropyl-4-nitro-benzonitrile (440 mg, 42%).

reactant | 2-Isopropyl-4-nitro-phenylamine | 5.55 mmol, 1.0 g | C(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])N | C9H12N2O2
reactant | sodium nitrite | 13.9 mmol, 0.96 g | N(=O)[O-].[Na+]
reactant | CuCN | 9.16 mmol, 0.82 g | C(#N)[Cu]
reactant | NaCN | 13.9 mmol, 0.68 g | [C-]#N.[Na+]
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 5N, 10 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-isopropyl-4-nitro-benzonitrile | 440 mg, 42% | C(C)(C)C1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C10H10N2O2
